US07045544B2
5-Nitro-N-phenyl-1H-indole-2-carboxamide
5.44 g (26.39 mmol) of 5-nitro-1H-indole-2-carboxylic acid from Example XLVII, 7.59 g (39.58 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide×HCl and 1.61 g (13.19 mmol) of 4-dimethylaminopyridine are initially charged in 400 ml of a 10:1 dichloromethane:DMF mixture. 2.95 g (2.89 ml, 31.67 mmol) of aniline are added, and the mixture is stirred at RT overnight. For work-up, the mixture is diluted and extracted with aqueous hydrochloric acid and dichloromethane. The organic phase is washed with sat. sodium chloride solution, dried with sodium sulphate, filtered and dried under reduced pressure.

reactant | 5-nitro-1H-indole-2-carboxylic acid | 26.39 mmol, 5.44 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 39.58 mmol, 7.59 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | HCl | Cl | ClH
reactant | aniline | 31.67 mmol, 2.89 ml, 2.95 g | NC1=CC=CC=C1 | C6H7N
catalyst | 4-dimethylaminopyridine | 13.19 mmol, 1.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Nitro-N-phenyl-1H-indole-2-carboxamide | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)NC1=CC=CC=C1 | C15H11N3O3
